US09290490B2
mCPBA (130 mg, 0.582 mmol) was added was added to a solution of ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)ethenyl]cyclohexanecarboxylate (182 mg, 0.529 mmol) in DCM (3 ml) at 0° C. The mixture was then allowed to stir at room temperature for 17 h, diluted with dichlormethane and washed with sodium hydroxide (2M in H2O). The aqueous layer was extracted with DCM and the combined organic layers were washed with brine, dried, concentrated in vacuo. The residue was purified on silica gel (0-15% EtOAc in hexane) to afford ethyl trans-4-[2-(5-bromo-1,3-thiazol-2-yl)oxiran-2-yl]cyclohexanecarboxylate. MS ESI calc'd. for C14H18BrNO3S [M+H]+ 360. found 360.

reactant | mCPBA | 0.582 mmol, 130 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)ethenyl]cyclohexanecarboxylate | 0.529 mmol, 182 mg | BrC1=CN=C(S1)C(=C)[C@@H]1CC[C@H](CC1)C(=O)OCC | C14H18BrNO2S
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | dichlormethane | ClCCl | CH2Cl2
product | ethyl trans-4-[2-(5-bromo-1,3-thiazol-2-yl)oxiran-2-yl]cyclohexanecarboxylate | BrC1=CN=C(S1)C1(OC1)[C@@H]1CC[C@H](CC1)C(=O)OCC | C14H18BrNO3S
